US07402672B2
3-(Quinolin-8-ylsulfanyl)-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide, Ia-25
Treat 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide 6a-1 (1.0 equiv) in DMF with bis-(8-quinolyl)disulfide (1.1 equiv) as described in General Synthetic Procedure IVb to provide Ia-25 as an ivory colored solid, MS Obs 321.1 (M+1).

reactant | 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | N1C(=CC2=NC=CC=C21)C(=O)N | C8H7N3O
reactant | bis-(8-quinolyl)disulfide | 1.1 equiv | N1=CC=CC2=CC=CC(=C12)SSC=1C=CC=C2C=CC=NC12 | C18H12N2S2
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(Quinolin-8-ylsulfanyl)-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | N1=CC=CC2=CC=CC(=C12)SC1=C(NC=2C1=NC=CC2)C(=O)N | C17H12N4OS
